US07491794B2
A mixture of 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (200 mg, 0.67 mmol), Pd(OAc)2 (30 mg, 0.2 equiv), DPPP (55 mg, 0.2 equiv), TEA (0.93 mL, 10 equiv) and MeOH:DMSO (1:1, 4 mL) was stirred for 16 h under CO (balloon) at 80° C. LC-MS and TLC (20% EtOAc-Hexane) showed completion of the reaction. The Reaction mixture was concentrated to remove MeOH and diluted with EtOAc (10 mL), and washed with water (2×25 mL). The organic layer was dried (Na2SO4), concentrated and purified by silica gel column chromatography (eluent=20% EtOAc-Hexane), giving pure 1,3-dihydro-isoindole-2,5-dicarboxylic acid 2-tert-butyl ester 5-methyl ester (150 mg, 81%). MS (APCI+): m/z 178.1 (MH+−Boc).

reactant | 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 0.67 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)Br | C13H16BrNO2
reactant | DPPP | 55 mg, 0.2 equiv | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | MeOH DMSO | 4 mL | CO.CS(=O)C
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
catalyst | Pd(OAc)2 | 30 mg, 0.2 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1,3-dihydro-isoindole-2,5-dicarboxylic acid 2-tert-butyl ester 5-methyl ester | 150 mg, 81% | COC(=O)C=1C=C2CN(CC2=CC1)C(=O)OC(C)(C)C | C15H19NO4
